US04247556
1-(2-Aminoethyl)-2-hydroxy-6-chloro-7-aza-benzimidazole.
11 grams of 1-(2-acetylaminoethyl)-2-hydroxy-6-chloro-7-aza-benzimidazole were stirred for 4 hours with 40 ml of concentrated hydrochloric acid at 80° C. and then allowed to stand overnight at 0° C., the substance crystallized out was recrystallized from methanol. Yield: 5 grams; M.P. of the hydrochloride 310°-312° C.

reactant | 1-(2-acetylaminoethyl)-2-hydroxy-6-chloro-7-aza-benzimidazole | 11 grams | C(C)(=O)NCCN1C(=NC2=C1N=C(C=C2)Cl)O | C10H11ClN4O2
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 1-(2-Aminoethyl)-2-hydroxy-6-chloro-7-aza-benzimidazole | NCCN1C(=NC2=C1N=C(C=C2)Cl)O | C8H9ClN4O
